US07790900B2
Under argon atmosphere, 121 mg of optically active 1-nitro-2-phenylpropane (732 μmol) were dissolved in 5 mol of dry methanol and 50 mg of palladium on charcoal (10%) were added thereto. The obtained suspension was vigorously stirred under hydrogen atmosphere for 24 hours. The mixture was filtered and the solid was washed with methanol. The solvent was evaporated and the residue was dissolved in 2 ml of benzene. The solvent was evaporated to give 95 mg of an optically active 1-amino-2-phenylpropane as a colorless oil (703 μmol).

reactant | 1-nitro-2-phenylpropane | 732 μmol | [N+](=O)([O-])CC(C)C1=CC=CC=C1 | C9H11NO2
reactant | methanol | 5 mol | CO | CH4O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | 1-amino-2-phenylpropane | 703 μmol, Yield: 96% | NCC(C)C1=CC=CC=C1 | C9H13N
